US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.00 g) was suspended in 4N HCl-dioxane (10 ml), the suspension was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water, the solution was washed with diethyl ether, alkalified with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain 694 mg of the titled compound (Yield: 86.5%).

reactant | 1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.00 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C=C(C)C)=O)NC(=O)OC(C)(C)C)=O)C | C29H35N3O5
solvent | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-(3-methyl-2-butenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 694 mg, Yield: 86.5% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C=C(C)C)=O)N)=O)C | C24H27N3O3
